US07601714B2
N4-[(trans-4-aminocyclohexyl)methyl]-5-fluoro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
{4-[(2-Chloro-5-fluoro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester (127 mg, 0.35 mmol) was dissolved in 2-trifluoromethoxybenzylamine (2.5 mL) and heated at 180° C. for 20 min. The reaction mixture was diluted with EtOAc and poured into 1N HCl. The aqueous layer was separated and extracted with EtOAc (×2). The combined organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was dissolved in CH2Cl2 (2.5 mL) and TFA (2.5 mL) was added. The reaction mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated in vacuo and the resulting residue was diluted with EtOAc. The solution was poured into 10% NaHCO3 and the aqueous layer was re-extracted with EtOAc. The combined organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel preparative TLC using 9:1:0.1 CH2Cl2:MeOH:NH4OH as an eluent to afford 22 mg (15%) of the title compound, m/z 414.6 (M+1)+.

reactant | {4-[(2-Chloro-5-fluoro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester | 0.35 mmol, 127 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1F)Cl)=O | C16H24ClFN4O2
reactant | HCl | 1N | Cl | ClH
reactant | 2-trifluoromethoxybenzylamine | 2.5 mL | FC(OC1=C(CN)C=CC=C1)(F)F | C8H8F3NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N4-[(trans-4-aminocyclohexyl)methyl]-5-fluoro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 22 mg, 15% | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1F)NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F4N5O
